US07812043B2
Indole starting material:
6-methoxymethylindole, R5X=cyclopropyl-methylbromide; NH2A=(2-amino-thiazole-5-ylsulfanyl)-propionic acid ethyl ester

reactant | 6-methoxymethylindole | COCC1=CC=C2C=CNC2=C1 | C10H11NO
reactant | cyclopropyl-methylbromide | C1(CC1)CBr | C4H7Br
reactant | (2-amino-thiazole-5-ylsulfanyl)-propionic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)N)=O | C8H12N2O2S2
product | Indole | N1C=CC2=CC=CC=C12 | C8H7N
